US03944551
To a solution of 9 g of 1-(2-thiazolyl) piperazine and 5 g of anhydrous triethylamine in 200 ml of anhydrous tetrahydroduran, there were added dropwise, a solution of 9.1 g of 5-coumaranyl carboxylic acid chloride in 20 ml of tetrahydrofuran. After the completion of the addition, the reaction mixture was heated at 60° C for two hours, then, the so-formed precipitate was suction-filtered off. The filtrate was evaporated under reduced pressure and the crystalline residue was washed with water then recrystallized in 70 ml of ethanol. There were obtained 12 g of 1-(5-coumaranyl carbonyl)-4-(2-thiazolyl) piperazine, melting (K) at 150°-151° C.

reactant | 1-(2-thiazolyl) piperazine | 9 g | S1C(=NC=C1)N1CCNCC1 | C7H11N3S
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | 5-coumaranyl carboxylic acid chloride | 9.1 g | O1CCC2=CC(=CC=C12)C(=O)Cl | C9H7ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(5-coumaranyl carbonyl)-4-(2-thiazolyl) piperazine | 12 g | O1CCC2=CC(=CC=C12)C(=O)N1CCN(CC1)C=1SC=CN1 | C16H17N3O2S
